US07842817B2
1,3-Bis(3,5-difluorobenzyl)-1,3-dihydrobenzoimidazol-2-ylideneamine
The title compound was prepared from 2-aminobenzimidazole and 3,5-difluorobenzyl bromide by Procedure A. The title product was isolated by filtration and washed with acetonitrile and water to give the title compound as the free base (white solid, mp 144-145° C.). MS(ES+) m/z 386 ([M+1]+, 100).

reactant | 2-aminobenzimidazole | NC=1NC2=C(N1)C=CC=C2 | C7H7N3
reactant | 3,5-difluorobenzyl bromide | FC=1C=C(CBr)C=C(C1)F | C7H5BrF2
product | 1,3-Bis(3,5-difluorobenzyl)-1,3-dihydrobenzoimidazol-2-ylideneamine | FC=1C=C(CN2C(N(C3=C2C=CC=C3)CC3=CC(=CC(=C3)F)F)=N)C=C(C1)F | C21H15F4N3
